US07214686B2
Oxane-4,4-dicarboxylic Acid
To a stirred solution of diethyl oxane-4,4-dicarboxylate (40.0 g., 173 mmol) in ethanol (100 mL) was added a solution of potassium hydroxide (21.4 g, 382 mmol) in ethanol (300 mL). After the completion of the addition, the reaction mixture was stirred for 15 min at ambient temperature and then refluxed for 2.5 h. Water (40 mL) was added to the thick, white suspension, and then the solvent was removed by rotary evaporation. Water (40 mL) was added to the remaining residue and the resulting mixture then acidified with concentrated sulfuric acid (20 mL). The acidic solution was extracted with diethyl ether (3×300 mL) and the combined organic layers were dried (Na2SO4). Removal of solvent by rotary evaporation yielded the product (27.3 g, 90.2% yield).

reactant | diethyl oxane-4,4-dicarboxylate | 173 mmol, 40.0 g | O1CCC(CC1)(C(=O)OCC)C(=O)OCC | C11H18O5
reactant | potassium hydroxide | 382 mmol, 21.4 g | [OH-].[K+]
reactant | Water | 40 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | Oxane-4,4-dicarboxylic Acid | 27.3 g, 90.2% yield | O1CCC(CC1)(C(=O)O)C(=O)O | C7H10O5
